US07935719B2
A mixture of 4-fluoro-3-nitrobenzonitrile (2.00 g, 12.04 mmol) and methyl 4-aminobenzoate (1.94 g, 12.83 mmol) in DMSO (40 mL) was cooled in an ice-bath and potassium tert-butoxide (2.96 g, 26.38 mmol) was added over 15 min. The reaction mixture was allowed to stir at room temperature for 3 h. The reaction mixture was quenched with ice; the solid product was recovered by filtration, washed with water and dried under vacuum to afford 2.4 g (68%) of methyl 4-[(4-cyano-2-nitrophenyl)amino]benzoate. To a solution of methyl 4-[(4-cyano-2-nitrophenyl)amino]benzoate (0.2 g, 0.67 mmol) in ethanol (4 mL) was added palladium on carbon (10 wt. %, 0.06 g) and hydrazine hydrate (0.13 g, 2.60 mmol) and the reaction mixture was heated at reflux for 2 h. The reaction mixture was cooled to room temperature, filtered through celite, and the solvent evaporated. The residue was dissolved in ethyl acetate, washed with water, dried (Na2SO4) and evaporated under reduced pressure to afford a crude oil. To a solution of the oil in trimethyl orthoformate (10 mL) was added formic acid (0.31 g, 7.7 mmol, 3 eq) and the reaction mixture was heated at reflux for 2 h. The reaction mixture was cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was partitioned between water and ethyl acetate and the organic layer was dried (Na2SO4) and evaporated to afford a crude solid. Purification by flash column chromatography (silica, CHCl3/MeOH 98:2) afforded 0.12 g (63%) of methyl 4-(5-cyano-1H-benzimidazol-1-yl)benzoate. MS [M+H] 277.

reactant | methyl 4-[(4-cyano-2-nitrophenyl)amino]benzoate | 0.67 mmol, 0.2 g | C(#N)C1=CC(=C(C=C1)NC1=CC=C(C(=O)OC)C=C1)[N+](=O)[O-] | C15H11N3O4
reactant | hydrazine hydrate | 2.60 mmol, 0.13 g | O.NN
reactant | formic acid | 7.7 mmol, 0.31 g, 3 eq | C(=O)O | CH2O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
solvent | trimethyl orthoformate | 10 mL | C(OC)(OC)OC | C4H10O3
product | methyl 4-(5-cyano-1H-benzimidazol-1-yl)benzoate | 0.12 g, 63% | C(#N)C1=CC2=C(N(C=N2)C2=CC=C(C(=O)OC)C=C2)C=C1 | C16H11N3O2
